US06093732
N-(4-Chlorobenzyl)-4-hydroxy-6-iodo-8-methoxy-3-quinolinecarboxamide
N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-iodo-3-quinolinecarboxamide (2.95 g) from Example No. 5 and sodium hydride (60% dispersion, 520 mg) is suspended in DMF (60 mL) and to the mixture is added methanol (288 μL). After being heated for 1 h at 135° C., additional sodium hydride (200 mg) is added, and the mixture is heated for an additional 1 h. The reaction mixture is allowed to cool to rt and then is poured into saturated aqueous ammonium chloride (200 mL). The resulting precipitate is filtered and washed with water (20 mL), tert-butyl methyl ether (20 mL), and heptane (20 mL). The crude product is purified by column chromatography (heptane/2-propanol, 9/1; 4/1) to afford 1.68 g (56%) of the title compound as a white solid. Recrystallization (acetic acid, water) affords a hydrate (1H2O).

reactant | N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-iodo-3-quinolinecarboxamide | 2.95 g | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)I)F)C=C1 | C17H11ClFIN2O2
reactant | sodium hydride | 520 mg | [H-].[Na+]
reactant | methanol | 288 μL | CO | CH4O
reactant | sodium hydride | 200 mg | [H-].[Na+]
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-4-hydroxy-6-iodo-8-methoxy-3-quinolinecarboxamide | 1.68 g, 56% | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)I)OC)C=C1 | C18H14ClIN2O3
